US09145391B2
To a flask containing (1S,4S or 1R,4R)-4-hydroxy-2,2-dimethyl-4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)cyclohexanecarboxylic acid (267 mg, 0.366 mmol), EDC (141 mg, 0.733 mmol), HOBt (112 mg, 0.733 mmol) and DIEA (0.320 mL, 1.832 mmol) in DMF (3.66 mL) was added ammonium chloride (59 mg, 1.099 mmol). The solution was stirred at room temperature for 16 hours. Water was added, and the mixture extracted with ethyl acetate (3×). The organic layers were combined, dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (6% methanol:dichloromethane) to afford (1S,4S or 1R,4R)-4-hydroxy-2,2-dimethyl-4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)cyclohexanecarboxamide as a white solid. MS ESI calcd. for C26H29F3N5O2 [M+H]+ 500. found 500. 1H NMR (600 MHz, DMSO-d6) δ 10.19 (s, 1H), 9.10 (d, J=1.7 Hz, 1H), 8.54 (s, 1H), 8.47 (d, J=5.2 Hz, 1H), 8.33 (dd, J=8.4, 2.3 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.43 (s, 1H), 7.30 (s, 1H), 7.17 (d, J=5.2 Hz, 1H), 7.16 (s, 1H), 6.54 (s, 1H), 4.99 (s, 1H), 2.63-2.57 (m, 1H), 2.36 (d, J=13.6 Hz, 1H), 2.34 (s, 3H), 2.10 (t, J=5.1 Hz, 1H), 1.96-1.90 (m; 1H), 1.75-1.65 (m, 1H), 1.41-1.35 (m, 1H), 1.32 (d, J=13.4 Hz, 1H), 1.09 (s, 3H), 0.61 (s, 3H). rhSyk IC50=23 nM.

reactant | 4-hydroxy-2,2-dimethyl-4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)cyclohexanecarboxylic acid | 0.366 mmol, 267 mg | OC1(CC(C(CC1)C(=O)O)(C)C)C1=CC=C(C=N1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F | C26H27F3N4O3
reactant | EDC | 0.733 mmol, 141 mg
reactant | HOBt | 0.733 mmol, 112 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.832 mmol, 0.320 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium chloride | 1.099 mmol, 59 mg | [Cl-].[NH4+]
solvent | DMF | 3.66 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-hydroxy-2,2-dimethyl-4-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)cyclohexanecarboxamide | OC1(CC(C(CC1)C(=O)N)(C)C)C1=CC=C(C=N1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F | C26H28F3N5O2
